US20010014691A1
(3-(5-Chloro(3-pyridyloxy))-1-methylpropyl)methylamine
Crude 3-bromo-1-(5-chloro(3-pyridyloxy)butane (1.50 g, 5.67 mmol) from the previous step was dissolved in methanol (10 mL) and added to a 40 wt % aqueous solution of methylamine (40 mL) in a heavy-walled glass pressure-tube apparatus. The mixture was stirred and heated at 100° C. (oil bath temperature) for 14 h. After cooling, the mixture was concentrated by rotary evaporation, and the product was extracted with chloroform (3×100 mL). The combined chloroform extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to give a pale-brown oil. The product was dissolved in cold, 15% aqueous HCl (15 mL), stirred at 0° C. for 45 min and extracted with chloroform (50 mL). The aqueous layer was cooled to 0° C., basified with 15% aqueous NaOH solution to pH 8-9 and extracted with chloroform (3×75 mL). The combined extracts were dried (Na2SO4), filtered and concentrated by rotary evaporation to give 0.929 g (76.6%) of a pale-yellow oil.

reactant | 5-chloro(3-pyridyloxy)butane | 5.67 mmol, 1.50 g | ClC=1C=C(C=NC1)OCCCC | C9H12ClNO
reactant | methylamine | 40 mL | CN | CH5N
reactant | HCl | 15 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | (3-(5-Chloro(3-pyridyloxy))-1-methylpropyl)methylamine | 0.929 g, 76.6% | ClC=1C=C(C=NC1)OCCC(C)NC | C10H15ClN2O
